US09233985B2
A stirred solution of methyl 2-oxocyclopentanecarboxylate (4.26 g, 30 mmol) and allyl alcohol (10.2 mL, 150 mmol) in anhydrous toluene (25 mL) was treated with powdered zinc (0.40 g, 6 mmol), refluxed for 48 h, and cooled to room temperature. The suspension was filtered, the filter cake rinsed with toluene, and the filtrate concentrated to afford allyl 2-oxocyclopentanecarboxylate (5.01 g, 99%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ 5.89 (ddt, J1=15.9 Hz, J2=10.5 Hz, J3=4.8 Hz, 1 H), 5.33 (dtd, J1=15.9 Hz, J2=2.7 Hz, J3=1.4 Hz, 1 H), 5.23 (dtd, J1=10.5 Hz, J2=2.7 Hz, J3=1.4 Hz, 1 H), 4.83-4.75 (m, 1 H), 3.18 (t, J=9.0 Hz, 1 H), 2.41-2.23 (m, 4 H), 2.22-2.07 (m, 1 H), 1.94-1.80 (m, 1 H); MS (+CI): m/z for C9H12O3: expected 168.1; found 169.1 (M+H)+.

reactant | methyl 2-oxocyclopentanecarboxylate | 30 mmol, 4.26 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | allyl alcohol | 150 mmol, 10.2 mL | C(C=C)O | C3H6O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 6 mmol, 0.40 g | [Zn] | Zn
product | allyl 2-oxocyclopentanecarboxylate | 5.01 g, 99% | O=C1C(CCC1)C(=O)OCC=C | C9H12O3
